US07410986B2
A solution of tert-butyl 2-amino-6-{2-(cyclopropylmethoxy)-6-[(4-methoxybenzyl)oxy]phenyl}-4-(3-hydroxy-4-nitrophenyl)nicotinate (2.32 g, 3.78 mmol) in ethyl acetate (15.0 mL) and THF (15.0 mL) was hydrogenated at 1 atm in the presence of palladium on charcoal (10%, 0.10 g) overnight. The resulting mixture was filtered on Celite and washed with ethyl acetate and THF. The combined filtrate was concentrated under reduced pressure to give tert-butyl 2-amino-4-(4-amino-3-hydroxyphenyl)-6-[2-[(4-methoxybenzyl)oxy]-6-(2-methylbutoxy)phenyl]nicotinate. (2.21 g, 100%); LC-MS (m/z=584, M+1)

reactant | tert-butyl 2-amino-6-{2-(cyclopropylmethoxy)-6-[(4-methoxybenzyl)oxy]phenyl}-4-(3-hydroxy-4-nitrophenyl)nicotinate | 3.78 mmol, 2.32 g | NC1=C(C(=O)OC(C)(C)C)C(=CC(=N1)C1=C(C=CC=C1OCC1=CC=C(C=C1)OC)OCC1CC1)C1=CC(=C(C=C1)[N+](=O)[O-])O | C34H35N3O8
reactant | ethyl acetate | 15.0 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 15.0 mL | C1CCOC1 | C4H8O
catalyst | palladium on charcoal | 0.10 g | [Pd] | Pd
product | tert-butyl 2-amino-4-(4-amino-3-hydroxyphenyl)-6-[2-[(4-methoxybenzyl)oxy]-6-(2-methylbutoxy)phenyl]nicotinate | NC1=C(C(=O)OC(C)(C)C)C(=CC(=N1)C1=C(C=CC=C1OCC(CC)C)OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)N)O | C35H41N3O6
